US06444685B1
N-[5-((1R)-2-{1-[4-(2,4-Dioxo-imidazolidine-1-sulfonyl)-phenyl]piperidin-4-ylamino}-1-hydroxy-ethyl)-2-hydroxy-phenyl]-methanesulfonamide
Acetic acid (0.15 mL, 2.6 mmol) was added dropwise into a mixture N-{5-[(1R)-2-amino-1-hydroxyethyl]-2-hydroxyphenyl}methanesulfonamide (320 mg, 1.3 mmol), 1-[[4-(4-oxo-1-piperidinyl)phenyl]sulfonyl}-2,4-imidazolidinedione (440 mg, 1.3 mmol) and N,N-dimethylformamide (5 mL). The mixture was stirred for 20 minutes and then, sodium triacetoxyborohydride (331 mg, 1.56 mmol) was added, and the new mixture was stirred at room temperature for 24 hours. The volatiles were removed in vacuo and the residue was purified by flash chromatography (dichloromethane/methyl alcohol 4/1) to produce a white solid (496 mg, 67% yield): mp 200-202° C.; c 1.35-1.42 (m, 2H), 1.81-1.97 (m, 2H), 2.83-2.97 (m, 6H), 3.95-3.97 (m, 2H), 4.22 (s, 2H), 4.57-4.6 (m, 1H), 7.1 (M, 3H), 7.2 (m, 1H), 7.75 (m, 2H), 8.4 (brs, 2H); MS m/e 566 (M−H)+; Analysis for: C23H29N5O8S2 Calc'd: C, 48.67; H, 5.11; N, 12.34 Found: C, 47.64; H, 5.2; N, 11.26.

reactant | Acetic acid | 2.6 mmol, 0.15 mL | C(C)(=O)O | C2H4O2
reactant | N-{5-[(1R)-2-amino-1-hydroxyethyl]-2-hydroxyphenyl}methanesulfonamide | 1.3 mmol, 320 mg | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | 1-[[4-(4-oxo-1-piperidinyl)phenyl]sulfonyl}-2,4-imidazolidinedione | 1.3 mmol, 440 mg | O=C1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N1C(NC(C1)=O)=O | C14H15N3O5S
reactant | sodium triacetoxyborohydride | 1.56 mmol, 331 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[5-((1R)-2-{1-[4-(2,4-Dioxo-imidazolidine-1-sulfonyl)-phenyl]piperidin-4-ylamino}-1-hydroxy-ethyl)-2-hydroxy-phenyl]-methanesulfonamide | 496 mg, 67% yield | O=C1N(CC(N1)=O)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C23H29N5O8S2
